US09333205B2
N-[(2S)-2-amino-2-phenylethyl]-8-({2-methoxy-4-[(1-methylpiperidin-4-yl)carbamoyl]phenyl}amino)-5,5-dimethyl-4,5-dihydroisoxazolo[4,5-h]quinazoline-3-carboxamide
To a solution of N-[(1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-phenylethyl]-8-({2-methoxy-4-[(1-methylpiperidin-4-yl)carbamoyl]phenyl}amino)-5,5-dimethyl-4,5-dihydroisoxazolo[4,5-h]quinazoline-3-carboxamide (60 mg, 0.079 mmol) in THF (3 mL), 35% hydrazine in water (0.07 mL) was added and the reaction was warmed at 70° C. for 24 hours. The reaction was cooled at room temperature diluted with H2O (20 mL) and extracted with DCM (2×20 mL). The organic layers were dried over Na2SO4 and the solvent evaporated to dryness to yield the crude solid that was purified by flash chromatography on silica gel (DCM/MeOH/(NH3 7N in MeOH) to afford the title compounds.

reactant | N-[(1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-phenylethyl]-8-({2-methoxy-4-[(1-methylpiperidin-4-yl)carbamoyl]phenyl}amino)-5,5-dimethyl-4,5-dihydroisoxazolo[4,5-h]quinazoline-3-carboxamide | 0.079 mmol, 60 mg | O=C1N(C(C2=CC=CC=C12)=O)C[C@H](C1=CC=CC=C1)NC(=O)C1=NOC2=C1CC(C=1C=NC(=NC21)NC2=C(C=C(C=C2)C(NC2CCN(CC2)C)=O)OC)(C)C | C42H42N8O6
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | hydrazine | NN | H4N2
solvent | water | 0.07 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
product | N-[(2S)-2-amino-2-phenylethyl]-8-({2-methoxy-4-[(1-methylpiperidin-4-yl)carbamoyl]phenyl}amino)-5,5-dimethyl-4,5-dihydroisoxazolo[4,5-h]quinazoline-3-carboxamide | N[C@H](CNC(=O)C1=NOC2=C1CC(C=1C=NC(=NC21)NC2=C(C=C(C=C2)C(NC2CCN(CC2)C)=O)OC)(C)C)C2=CC=CC=C2 | C34H40N8O4
